US05780483
Preparation of N-(2-hydroxy-4-nitrophenyl)-N'-(4-trifluoromethylphenyl)urea
N-(2-Hydroxy-4-nitrophenyl)-N'-(4-trifluoromethylphenyl)urea was prepared from 2-hydroxy 4-nitro aniline (154 mg, 1.0 mmol) and 4-trifluoromethyl phenyl isocyanate (1.0 mmol) according to the procedure in General Method B. The product was purified by dilution with methylene chloride and precipitation with hexanes. Filtering afforded the title compound (111 mg, 32%). EI-MS m/z 340(M-H)-

reactant | 2-hydroxy 4-nitro aniline | 1.0 mmol, 154 mg | OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H6N2O3
reactant | 4-trifluoromethyl phenyl isocyanate | 1.0 mmol | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
product | N-(2-hydroxy-4-nitrophenyl)-N'-(4-trifluoromethylphenyl)urea | 111 mg, 32% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NC1=CC=C(C=C1)C(F)(F)F | C14H10F3N3O4
